US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-{[4-(pyrrolidin-1-ylmethyl)-1,3-thiazol-2-yl]methyl}furan-3-carboxamide
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (30 mg, 0.085 mmol) was dissolved in DCM (10 mL) and EDCI (30 mg, 0.15 mmol) and HOBt (21 mg, 0.15 mmol) were added. The resulting solution was stirred for 45 min prior to the addition of a solution of N-methyl-1-[4-(pyrrolidin-1-ylmethyl)-1,3-thiazol-2-yl]methanamine (26 mg, 0.12 mmol) in DCM (2 mL). The reaction was stirred at ambient temperature for 5 h, saturated aqueous NaHCO3 (15 mL) was added and the mixture was extracted with DCM (3×15 mL). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by FCC eluting with 3% MeOH in DCM. A portion of the resulting product was purified by prep method B to afford the title compound.

reactant | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.085 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.15 mmol, 30 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.15 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl-1-[4-(pyrrolidin-1-ylmethyl)-1,3-thiazol-2-yl]methanamine | 0.12 mmol, 26 mg | CNCC=1SC=C(N1)CN1CCCC1 | C10H17N3S
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-{[4-(pyrrolidin-1-ylmethyl)-1,3-thiazol-2-yl]methyl}furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(CC=1SC=C(N1)CN1CCCC1)C)C | C26H34N4O5S2
